US07897762B2
3-(1-Isopropyl-7-(methylthio)-2-oxo-1,2-dihydropyrimido[4,5-d]pyrimidin-3(4H)-yl)-5-nitrobenzonitrile (1.2 g, 3.13 mmol), iron powder (1.75 g, 31 mmol) and conc HCl (0.5 ml, 6 mmol) were combined in methanol (100 mL) by the procedure of Example A10, step 4, to provide 3-amino-5-(1-isopropyl-7-(methylthio)-2-oxo-1,2-dihydropyrimido[4,5-d]pyrimidin-3(4H)-yl)benzonitrile (280 mg, 25% yield). 1H NMR (400 MHz, DMSO-d6): δ 8.27 (s, 1 H), 6.89 (m, 1 H), 6.86 (d, J=2.0 Hz, 1 H), 6.76 (t, J=2.0 Hz, 1 H), 5.73 (d, J=2.8 Hz, 2 H), 4.98 (m, 1 H), 4.68 (s, 2 H), 2.51 (s, 3 H), 1.48 (d, J=6.8 Hz, 6 H); MS (ESI) m/z: 355.1 [M+H]+.

reactant | 3-(1-Isopropyl-7-(methylthio)-2-oxo-1,2-dihydropyrimido[4,5-d]pyrimidin-3(4H)-yl)-5-nitrobenzonitrile | 3.13 mmol, 1.2 g | C(C)(C)N1C(N(CC=2C1=NC(=NC2)SC)C=2C=C(C#N)C=C(C2)[N+](=O)[O-])=O | C17H16N6O3S
reactant | HCl | 6 mmol, 0.5 ml | Cl | ClH
solvent | methanol | 100 mL | CO | CH4O
catalyst | iron | 31 mmol, 1.75 g | [Fe] | Fe
product | 3-amino-5-(1-isopropyl-7-(methylthio)-2-oxo-1,2-dihydropyrimido[4,5-d]pyrimidin-3(4H)-yl)benzonitrile | 280 mg, 25% yield | NC=1C=C(C#N)C=C(C1)N1C(N(C2=NC(=NC=C2C1)SC)C(C)C)=O | C17H18N6OS
